US07932252B2
N-(4-Chloro-2-isoquinolin-1-yl-phenyl)-4-oxazol-5-yl-benzenesulfonamide
The title compound was prepared according to the general procedure using 4-oxazol-5-yl-benzenesulfonyl chloride and 4-chloro-2-isoquinolin-1-yl-phenylamine and purified by preparative HPLC. MS: (M+H)/z=462.

reactant | 4-oxazol-5-yl-benzenesulfonyl chloride | O1C=NC=C1C1=CC=C(C=C1)S(=O)(=O)Cl | C9H6ClNO3S
reactant | 4-chloro-2-isoquinolin-1-yl-phenylamine | ClC1=CC(=C(C=C1)N)C1=NC=CC2=CC=CC=C12 | C15H11ClN2
product | N-(4-Chloro-2-isoquinolin-1-yl-phenyl)-4-oxazol-5-yl-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CN=CO1)C1=NC=CC2=CC=CC=C12 | C24H16ClN3O3S
